US09359375B2
A solution of 2-bromo-4-fluorobenzonitrile (200 mg, 1.00 mmol), DL-α-amino-ε-caprolactam hydrochloride (173 mg, 1.05 mmol) and DIEA (0.620 mL, 3.56 mmol) in DMSO (3 mL) was stirred at 120 C for 18 h. Water and EtOAc were added. The solid found between the bi-layer was collected by filtration to give 2-bromo-4-(2-oxoazepan-3-ylamino)benzonitrile (155 mg)

reactant | 2-bromo-4-fluorobenzonitrile | 1.00 mmol, 200 mg | BrC1=C(C#N)C=CC(=C1)F | C7H3BrFN
reactant | DL-α-amino-ε-caprolactam hydrochloride | 1.05 mmol, 173 mg | C1CCNC(=O)C(C1)N.Cl
reactant | DIEA | 3.56 mmol, 0.620 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-bromo-4-(2-oxoazepan-3-ylamino)benzonitrile | 155 mg | BrC1=C(C#N)C=CC(=C1)NC1C(NCCCC1)=O | C13H14BrN3O
